US05965761
A mixture of 4.85 g of 4-(3-butenyloxy)benzoic acid and 6 ml of thionyl chloride was treated with 3 drops of dimethylformamide and heated to reflux for 3 hrs. The excess acid chloride was thereupon distilled off firstly at normal pressure and then with increasing vacuum, the residue was held under a high vacuum for 2.5 hrs. and subsequently dissolved in 20 ml of methylene chloride. This solution was added dropwise while cooling with ice to obtain a mixture of 5 g of methyl (E)-4-hydroxy-3-methoxycinnamate, 25 ml of methylene chloride and 3.9 ml of triethylamine and subsequently left to react at room temperature for 60 hrs. Then, the reaction solution was filtered, concentrated slightly and chromatographed over 314 g of silica gel with methylene chloride. Crystallization from cold ethanol gave 7.03 g of 2-methoxy-4-[(E)2-methoxycarbonyl-vinyl]phenyl 4-(3-butenyloxy)benzoate.

reactant | 4-(3-butenyloxy)benzoic acid | 4.85 g | C(CC=C)OC1=CC=C(C(=O)O)C=C1 | C11H12O3
reactant | thionyl chloride | 6 ml | S(=O)(Cl)Cl | Cl2OS
reactant | methyl (E)-4-hydroxy-3-methoxycinnamate | 5 g | OC1=C(C=C(/C=C/C(=O)OC)C=C1)OC | C11H12O4
reactant | methylene chloride | 25 ml | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | 3 drops | CN(C=O)C | C3H7NO
solvent | triethylamine | 3.9 ml | C(C)N(CC)CC | C6H15N
product | 2-methoxy-4-[(E)2-methoxycarbonyl-vinyl]phenyl 4-(3-butenyloxy)benzoate | 7.03 g | C(CC=C)OC1=CC=C(C(=O)OC2=C(C=C(C=C2)\C=C\C(=O)OC)OC)C=C1 | C22H22O6
